US06972340B2
2-(2-amino-5-bromo-phenyl)-ethanol
To a solution of 2-aminophenethyl alcohol (10.0 g, 72.9 mmol) in acetic acid (60 mL) at 10° C. was added Br2 (3.8 mL, 72.9 mmol) in acetic acid (5 mL). Additional acetic acid (30 mL) was added and the reaction was stirred for 1 hour. The mixture was filtered and the filter cake washed with diethyl ether. The solid was then partitioned between ethyl acetate and aqueous 3N NaOH. The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to provide the titled compound (15.8 g).

reactant | 2-aminophenethyl alcohol | 72.9 mmol, 10.0 g | NC1=C(CCO)C=CC=C1 | C8H11NO
reactant | Br2 | 72.9 mmol, 3.8 mL | BrBr | Br2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(2-amino-5-bromo-phenyl)-ethanol | 15.8 g | NC1=C(C=C(C=C1)Br)CCO | C8H10BrNO
